US04210602
Para-nitroso-diphenylhydroxylamine is a compound which may be readily obtained by means of the catalytic dimerization of nitrosobenzene. According to a recent, especially advantageous process, the foregoing compound may be obtained with practically quantitative yield, if a sulfonic acid with a pKa ≤1, for example methane-, ethane-, or trifluoromethanesulfonic acid, or perchloric or trifluoroacetic acid is used as a catalyst (German Patent Application No. P 27 03 919). The nitrosobenzene required for the preparation of para-nitroso-diphenylhydroxylamine is likewise easily accessible and may be obtained by the catalytic reduction of nitrobenzene. The reduction will proceed with a high conversion rate and high selectivity if, pursuant to another recent process, an aliphatic, cycloaliphatic, olefinic, or aromatic hydrocarbon is used as the reducing agent (German Patent Application No. P 27 13 602).

reactant | methane | C | CH4
reactant | ethane | CC | C2H6
reactant | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | nitrosobenzene | N(=O)C1=CC=CC=C1 | C6H5NO
catalyst | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
